US04916047
Synthesis of 4-Chloro-3-nitrobenzenesulfonyl Chloride;
To a mixed solution containing 1,280 g of potassium 4-chloro-3-nitrobenzenesulfonate, 1,150 ml of acetonitrile, 250 ml of Sulfolane (tetrahydrothiophene 1,1-dioxide) and 30 ml of dimethylacetamide was dropwise added 1,250 ml of phoshporus oxychloride under an inside temperature at 60° C. to 70° C. After the reaction was continued for 3 hours at 73° C., the reaction mixture was cooled with water, and thereto was slowly added 400 ml of water. The thus obtained product was poured into 5 liters of ice-cold water. The crystalline precipitate was filtered off, washed with water, and dried.

reactant | potassium 4-chloro-3-nitrobenzenesulfonate | 1,280 g | ClC1=C(C=C(C=C1)S(=O)(=O)[O-])[N+](=O)[O-].[K+]
reactant | acetonitrile | 1,150 ml | C(C)#N | C2H3N
reactant | Sulfolane | 250 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | oxychloride | 1,250 ml | O(Cl)Cl | Cl2O
solvent | water | 400 ml | O | H2O
solvent | dimethylacetamide | 30 ml | CC(=O)N(C)C | C4H9NO
product | 4-Chloro-3-nitrobenzenesulfonyl Chloride | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
